* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
.subckt  sky130_fd_pr__cap_var_hvt c0 c1 b w=5 l=0.5 vm=1
+ wc='w*1' lc='l*1'
* Corner Parameters
*.param cnwvc2_tox=41.7642
*.param cnwvc2_cdepmult=1
*.param cnwvc2_cintmult=1
*.param cnwvc2_vt1=0.2
*.param cnwvc2_vt2=0.33
*.param cnwvc2_vtr=0.14
*.param cnwvc2_dwc=0.0
*.param cnwvc2_dlc=0.0
*.param cnwvc2_dld=0.0
* Geometry Parameters
.param
+ cnwvc_ldiff=0.15
+ wd='wc+2*cnwvc2_dwc'
+ ld='lc+2*cnwvc2_dlc'
+ ldd='0.015+2*cnwvc2_dld'
+ dwr=0.00
+ dwp=0.0
+ dlr=0.03
+ wl='(wd-2*dwr)/(ld-2*dlr)'
+ wlwdiff='((0.5*(ld-2*dlr))+cnwvc_ldiff)/(2*(wd-2*dwr))'
* Mismatch Parameters
+ sky130_fd_pr__cap_var_hvt__cmin_slope_l=2.4e-16
+ sky130_fd_pr__cap_var_hvt__cmin_slope_w=1.0e-16
+ sky130_fd_pr__cap_var_hvt__cmin_slope_wl=4.0e-16
+ sky130_fd_pr__cap_var_hvt__cmax_slope_l=3.0e-16
+ sky130_fd_pr__cap_var_hvt__cmax_slope_w=7.0e-16
+ sky130_fd_pr__cap_var_hvt__cmax_slope_wl=1.0e-15
* Capacitance Model Parameters
.param cnwvc_slope1=0.15
.param cnwvc_slope2=0.35
.param
+ cm0='5.828e-16*cnwvc2_cintmult'
+ cm1=4.596e-16 dev/gauss='sky130_fd_pr__cap_var_hvt__cmin_slope_l/sqrt(2*ld*vm)'
+ cm2=1.614e-16 dev/gauss='sky130_fd_pr__cap_var_hvt__cmin_slope_w/sqrt(2*wd*vm)'
+ cm3='1.541e-15*cnwvc2_cdepmult' dev/gauss='sky130_fd_pr__cap_var_hvt__cmin_slope_wl*cnwvc2_cdepmult/sqrt(2*ld*wd*vm)'
+ cx0=6.778e-16
+ cx1=6.461e-16 dev/gauss='sky130_fd_pr__cap_var_hvt__cmax_slope_l/sqrt(2*ld*vm)'
+ cx2=1.517e-16 dev/gauss='sky130_fd_pr__cap_var_hvt__cmax_slope_w/sqrt(2*wd*vm)'
+ cx3='8.854e-14*3.9/cnwvc2_tox' dev/gauss='sky130_fd_pr__cap_var_hvt__cmax_slope_wl/sqrt(2*ld*wd*vm)'
+ sky130_fd_pr__cap_var_hvt__vgs_min_1 = '-2.071'
+ sky130_fd_pr__cap_var_hvt__vgs_max_1 = '-1*-2.071'
+ sky130_fd_pr__cap_var_hvt__tmax_vgs_1 = '100.001n'
+ sky130_fd_pr__cap_var_hvt__vgs_min_2 = '-2.161'
+ sky130_fd_pr__cap_var_hvt__vgs_max_2 = '-1*-2.161'
+ sky130_fd_pr__cap_var_hvt__tmax_vgs_2 = '20.001n'
+ sky130_fd_pr__cap_var_hvt__vgs_min = '-2.301'
+ sky130_fd_pr__cap_var_hvt__vgs_max = '-1*-2.301'
* .SETSOA LABEL="MODEL_OOB_VG_1: sky130_fd_pr__cap_var_hvt Vg for Varactor" E v(c0, c1) =(sky130_fd_pr__cap_var_hvt__vgs_min_1, sky130_fd_pr__cap_var_hvt__vgs_max_1, sky130_fd_pr__cap_var_hvt__tmax_vgs_1 )
* .SETSOA LABEL="MODEL_OOB_VG_2: sky130_fd_pr__cap_var_hvt Vg for Varactor" E v(c0, c1) =(sky130_fd_pr__cap_var_hvt__vgs_min_2, sky130_fd_pr__cap_var_hvt__vgs_max_2, sky130_fd_pr__cap_var_hvt__tmax_vgs_2 )
* .SETSOA LABEL="MODEL_OOB_VG: sky130_fd_pr__cap_var_hvt Vg for Varactor" E v(c0, c1) =(sky130_fd_pr__cap_var_hvt__vgs_min, sky130_fd_pr__cap_var_hvt__vgs_max )
.param
+ tref=30.0
+ cmin='cm0+cm1*ld+cm2*wd+cm3*wd*(ld-ldd)+cx3*wd*ldd'
+ cmax='cx0+cx1*ld+cx2*wd+cx3*wd*ld'
+ slope_0=1.808e-17
+ slope_0_tc1=7.2181e-20
+ slope_0_tc2=-1.9745e-21
+ cmin_slope_0='slope_0+(temper-tref)*slope_0_tc1+(temper-tref)*(temper-tref)*slope_0_tc2'
+ slope_w=-3.169e-17
+ slope_w_tc1=-1.4465e-19
+ slope_w_tc2=3.5187e-21
+ cmin_slope_w='slope_w+(temper-tref)*slope_w_tc1+(temper-tref)*(temper-tref)*slope_w_tc2'
+ slope_l=-7.435e-17
+ slope_l_tc1=-4.4474e-19
+ slope_l_tc2=7.3824e-21
+ cmin_slope_l='slope_l+(temper-tref)*slope_l_tc1+(temper-tref)*(temper-tref)*slope_l_tc2'
+ slope_wl=2.509e-16
+ slope_wl_tc1=-1.0793e-18
+ slope_wl_tc2=-2.2625e-20
+ cmin_slope_wl='slope_wl+(temper-tref)*slope_wl_tc1+(temper-tref)*(temper-tref)*slope_wl_tc2'
+ cmin_slope='cmin_slope_0+cmin_slope_w*wd+cmin_slope_l*ld+cmin_slope_wl*wd*ld'
cg c0 p2 q='cmin*vm*(v(c0)-v(p2))+0.5*cmin_slope*vm*min((v(c0)-v(p2)+0.8),0)*min((v(c0)-v(p2)+0.8),0)+((0.5*(cmax+cmin)-cmin)*(v(c0)-v(p2))+0.5*(cmax-cmin)*(1/1.9)*(cnwvc_slope1*log(cosh((v(c0)-v(p2)-cnwvc2_vt1)/cnwvc_slope1))+0.9*cnwvc_slope2*log(cosh((v(c0)-v(p2)-cnwvc2_vt2)/cnwvc_slope2))))*vm'
c3 c0 b c='0.15e-15'
c4 c1 b c='0.15e-15'
* Resistance Model Parameters
.param con_sp=0.17
.param cnwvc_k=12
.param cnwvc_n1=0.2
.param cnwvc_n2=0.35
.param apoly=1.1
.param apolyc=1.1
.param acon=1
.param anwell=1
.param bnwell=0.5
.param cnwell=0.3
.param n_pocon='max((lc-0.14)/(2*con_sp),1)'
.param n_con='(wc-2*0.06+con_sp)/(2*con_sp)'
.param rg_tc1=9.611e-4
.param rg_tc2=5.523e-6
.param rg_tcmult='1+(temper-tref)*rg_tc1+(temper-tref)*(temper-tref)*rg_tc2'
.param cnwvc_a='apoly*rp1*wl/cnwvc_k+apolyc*rcp1/n_pocon+acon*rcn/n_con+anwell*rnw*wlwdiff'
.param cnwvc_b1='bnwell*rnw*cnwvc_ldiff/(2*(wd-2*dwr))'
.param cnwvc_c='cnwell*rnw*cnwvc_ldiff/(2*(wd-2*dwp))'
rg p2 c1 r='(cnwvc_a+cnwvc_b1*(0.5*tanh((v(c0)-v(p2)-cnwvc2_vtr)/cnwvc_n1)+0.5)+20*cnwvc_c*(0.5*tanh((v(c0)-v(p2)-cnwvc2_vtr)/cnwvc_n1)+0.5)*exp(-abs((v(c0)-v(p2)-cnwvc2_vtr)/cnwvc_n2)))/vm*rg_tcmult'
.ends sky130_fd_pr__cap_var_hvt
